US06767919B2
1-(N,N-bischloroethylaminoethoxy)-4-tert-butyldimethylsilyloxythioxanthone
A solution of 0.50 g of 1-(N,N-bischloroethylaminoethoxy)-4-hydroxythioxanthone in 10 ml of dimethylformamide is mixed with 0.22 g of tert-butyldimethylsilyl chloride, 0.20 g of imidazole and a catalytic amount of dimethylaminopyridine, and stirred at room temperature for 12 h. The solution is then added over water and extracted with ethyl acetate. The ethyl acetate extract is washed sequentially with saturated sodium bicarbonate and water, dried over sodium sulfate, concentrated and dissolved in a mixture of ethyl acetate: hexanes (1:4) and passed through a plug of alumina. The solid obtained after concentration is pure and weighed 0.48 g (70%).

reactant | 1-(N,N-bischloroethylaminoethoxy)-4-hydroxythioxanthone | 0.50 g | ClCCN(CCCl)CCOC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C19H19Cl2NO3S
reactant | tert-butyldimethylsilyl chloride | 0.22 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.20 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(N,N-bischloroethylaminoethoxy)-4-tert-butyldimethylsilyloxythioxanthone | ClCCN(CCCl)CCOC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O[Si](C)(C)C(C)(C)C | C25H33Cl2NO3SSi
